US06271238B1
(2) 2,2-Dimethyloxy-1-phenylethylamine hydrochloride
1-Benzyloxycarbonylamino-2,2-dimethyloxy-1-phenylethane (1.21 g, 3.84 mmol) was dissolved in methanol (38.4ml), and 4 N hydrogen chloride/1,4-dioxane (0.96 ml, 3.84 mmol) and palladium black (121 mg) were added to it and hydrogenolyzed overnight at room temperature in hydrogen atmosphere. After the palladium black was removed by filtration, the filtrate was concentrated under reduced pressure, and methylene chloride and diethyl ether were added to the resulting residue. The precipitated solid was collected by filtration whereby the title compound (760.3 mg, 91% yield) was obtained.

reactant | 1-Benzyloxycarbonylamino-2,2-dimethyloxy-1-phenylethane | 3.84 mmol, 1.21 g | C(C1=CC=CC=C1)OC(=O)NC(C(OC)OC)C1=CC=CC=C1 | C18H21NO4
reactant | hydrogen chloride 1,4-dioxane | 3.84 mmol, 4 N, 0.96 ml | Cl.O1CCOCC1
solvent | methanol | 38.4ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium black | 121 mg | [Pd] | Pd
product | 2,2-Dimethyloxy-1-phenylethylamine hydrochloride | 760.3 mg, 91% yield | Cl.COC(C(C1=CC=CC=C1)N)OC | InChI=1S/C10H15NO2.ClH/c1-12-10(13-2)9(11)8-6-4-3-5-7-8;/h3-7,9-10H,11H2,1-2H3;1H
